* RC Step Response
* A series RC driven by a 5 V step edge to visualize the classic
* exponential charging curve. The time constant tau = R*C = 1 ms
* sets the settling time around 5 ms.
* Devices exercised: V, R, C.

.title RC Step Response

* --- Step source (0 V -> 5 V at t = 100 us) ---
Vin in 0 PULSE(0 5 100u 1u 1u 20m 40m)

* --- RC network ---
R1 in  cap 1k
C1 cap 0   1u

* --- Analysis: capture several time constants ---
.tran 10u 10m

.MEASURE TRAN v_final FIND V(cap) AT=9m
.MEASURE TRAN t_rise_10_90 TRIG V(cap) VAL=0.5 RISE=1
+ TARG V(cap) VAL=4.5 RISE=1

.end
